US09428528B2
Step 3 Preparation of N-(5-Bromo-benzothiazol-2-ylmethyl)-methanesulfonamide
To a stirred solution of C-(5-Bromo-benzothiazol-2-yl)-methylamine (0.780 g, 3.209 mmol) in CH2Cl2 (12 mL) is added triethylamine (1.2 mL, 8.024 mmol). To above solution is added drop wise methane sulfonyl chloride (0.5 mL, 6.419 mmol) at 0° C. then stirred at room temperature for 3 hours. The reaction mixture is concentrated in vacuo and the crude material is diluted with water and extracted with ethyl acetate. The organic layer is dried over sodium sulfate, concentrated and purified by combiflash using 50% ethyl acetate in hexane as an eluent to afford the title compound (0.45 g). 1HNMR (400 MHz, DMSO-d6) δ: 3.03 (s, 3H), 4.60 (d, J=5.72 Hz, 2H), 7.64-7.67 (dd, J1=1.88 Hz, J2=8.72 Hz, 1H), 7.88 (d, J=8.68 Hz, 1H), 8.21 (t, J=6 Hz, 1H), 8.40 (d, J=1.88 Hz, 1H). LC-MS (m/z): [M−H]=320.8.

reactant | C-(5-Bromo-benzothiazol-2-yl)-methylamine | 3.209 mmol, 0.780 g | BrC=1C=CC2=C(N=C(S2)CN)C1 | C8H7BrN2S
reactant | triethylamine | 8.024 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 6.419 mmol, 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-benzothiazol-2-ylmethyl)-methanesulfonamide | 0.45 g | BrC=1C=CC2=C(N=C(S2)CNS(=O)(=O)C)C1 | C9H9BrN2O2S2
